US09169254B2
An aqueous hydrogen bromide solution (80 μL) was added to a mixed solution of 3-tert-butyl-5,7-dimethyl-6-{2-[2-(4-methyl-cyclohexyl)-4-oxo-1,3,8-triaza-spiro[4.5]dec-1-ene-8-sulfonyl]-ethyl}-1H-quinazoline-2,4-dione (3.3 mg, 3.41 μmol) in acetic acid (80 μL), and the mixture was heated with stirring at 100° C. for one hour. The reaction solution was returned to room temperature and then concentrated under reduced pressure, and the resulting residue was purified by preparative TLC to give 5,7-dimethyl-6-{2-[2-(4-methyl-cyclohexyl)-4-oxo-1,3,8-triaza-spiro[4.5]dec-1-ene-8-sulfonyl]-ethyl}-1H-quinazoline-2,4-dione as a pale yellow solid (1.2 mg, 44%).

reactant | hydrogen bromide | 80 μL | Br | BrH
reactant | 3-tert-butyl-5,7-dimethyl-6-{2-[2-(4-methyl-cyclohexyl)-4-oxo-1,3,8-triaza-spiro[4.5]dec-1-ene-8-sulfonyl]-ethyl}-1H-quinazoline-2,4-dione | 3.41 μmol, 3.3 mg | C(C)(C)(C)N1C(NC2=CC(=C(C(=C2C1=O)C)CCS(=O)(=O)N1CCC2(C(NC(=N2)C2CCC(CC2)C)=O)CC1)C)=O | C30H43N5O5S
solvent | acetic acid | 80 μL | C(C)(=O)O | C2H4O2
product | 5,7-dimethyl-6-{2-[2-(4-methyl-cyclohexyl)-4-oxo-1,3,8-triaza-spiro[4.5]dec-1-ene-8-sulfonyl]-ethyl}-1H-quinazoline-2,4-dione | 1.2 mg, 44% | CC1=C2C(NC(NC2=CC(=C1CCS(=O)(=O)N1CCC2(C(NC(=N2)C2CCC(CC2)C)=O)CC1)C)=O)=O | C26H35N5O5S
